US07659267B2
2-(4-Cyanophenyl)-4H-1,3-benzothiazin-4-one
A mixture of terephthalonitrile (1.50 g, 12 mmol), methyl thiosalicylate (2.95 g, 18 mmol), triethylamine (2.10 g, 21 mmol) and toluene (20 ml) was heated and refluxed under a nitrogen flow for 48 hours. The crystals precipitated were taken by filtration and recrystallized from tetrahydrofuran to give the title compound (0.98 g, 32%) as crystals.

reactant | terephthalonitrile | 12 mmol, 1.50 g | C(C1=CC=C(C#N)C=C1)#N | C8H4N2
reactant | methyl thiosalicylate | 18 mmol, 2.95 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 21 mmol, 2.10 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Cyanophenyl)-4H-1,3-benzothiazin-4-one | 0.98 g, 32% | C(#N)C1=CC=C(C=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C15H8N2OS
